US07528143B2
5-Methyl-N2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-pyrimidine-2,4-diamine (Intermediate 38)
A mixture of 2-chloro-5-methyl-pyrimidin-4-ylamine (0.50 g, 3.5 mmol) and 4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine (1.1 g, 5.3 mmol) in acetic acid (8 mL) was sealed in a microwave reaction tube and irradiated with microwave at 150° C. for 15 min. After cooling to room temperature, the cap was removed and the mixture concentrated. The residue was taken in water (30 mL) and neutralized with 10% NaOH solution until pH 10. The resulting aqueous layer was extracted with EtOAc (2×30 mL) and the combined organic layers washed with brine, dried over anhydrous Na2SO4 and filtered. The filtrate was concentrated to afford the title compound as a grey solid (0.80 g, 73%). It was used in the next step without purification. MS (ES+): m/z 314 (M+H)+.

reactant | 2-chloro-5-methyl-pyrimidin-4-ylamine | 3.5 mmol, 0.50 g | ClC1=NC=C(C(=N1)N)C | C5H6ClN3
reactant | 4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine | 5.3 mmol, 1.1 g | N1(CCCC1)CCOC1=CC=C(C=C1)N | C12H18N2O
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
product | 5-Methyl-N2-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-pyrimidine-2,4-diamine | 0.80 g, 73% | CC=1C(=NC(=NC1)NC1=CC=C(C=C1)OCCN1CCCC1)N | C17H23N5O
